US05472983
Preparation of N-tert-butyl 4-nitrobenzamide (CPI1020)
The preparation of Example 1 was repeated with the changes that tert-butyl amine (14.6 g, 0.200 mole) and 4-nitrobenzoyl chloride (18.6 g, 0.100 mole) were the starting reactants. This reaction produced 17.13 g of crystals of the desired product (77% yield), mp 162°-163° C. proton nuclear magnetic resonance (89.55 MHz) showed absorptions at 8.257 ppm (d, 8.8 Hz, 2H; 3,5-aryl H); 7.878 ppm (d, 8.8 Hz, 2H; 2,6-aryl H); 6.097 ppm (bs, 1H; N-H); 1,500 ppm (s, 9H; tert-butyl H).

reactant | tert-butyl amine | 0.200 mole, 14.6 g | C(C)(C)(C)N | C4H11N
reactant | 4-nitrobenzoyl chloride | 0.100 mole, 18.6 g | [N+](=O)([O-])C1=CC=C(C(=O)Cl)C=C1 | C7H4ClNO3
product | N-tert-butyl 4-nitrobenzamide | 77% yield | C(C)(C)(C)NC(C1=CC=C(C=C1)[N+](=O)[O-])=O | C11H14N2O3
